US07718600B2
(5-bromo-pentyl)-benzene (50 b) (PAA 67).
Phenylmethyl-triphenylphosphonium bromide (51 a) (PAA 59). Triphenylphosphine (2.364 g, 9.00 mmol) was added to benzyl bromide (1.348 g, 8.00 mmol) in 35 mL toluene in a 100-mL round-bottom flask. The mixture was heated to reflux under argon and stirred 24 h, then concentrated in vacuo. The resulting white amorphous solid was triturated with ether (3×20 mL) to yield 3.268 g (94%) white powder. 1H NMR (CDCl3, 300 MHz) δ 7.58-7.78 (m, 15H), 7.10-7.26 (m, 5H), 5.34-5.42 (m, 2H).

reactant | Phenylmethyl-triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | Triphenylphosphine | 9.00 mmol, 2.364 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl bromide | 8.00 mmol, 1.348 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | (5-bromo-pentyl)-benzene | 3.268 g, 94% | BrCCCCCC1=CC=CC=C1 | C11H15Br
